US07642264B2
4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine (example A.11) (1.67 g, 7.0 mmol) and commercially available 4-iodo-imidazole (2.04 g, 10.5 mmol) according to the general procedure IVa. Obtained as a light yellow solid (1.97 g, 71%). MS (ISP) 397.1 [(M+H)+]; mp 184° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine | 7.0 mmol, 1.67 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C11H8Cl2N2
reactant | 4-iodo-imidazole | 10.5 mmol, 2.04 g | IC=1N=CNC1 | C3H3IN2
product | 4-(4-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-methyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)N1C=NC(=C1)I | C14H10ClIN4
